US05977178
(2E)-5-tert-Butoxycarbonylamino-5-methylhex-2-enoic acid (277 mg, 1.14 mmol) and 1-hydroxy-7-azabenzotriazole (155 mg, 1,14 mmol) were dissolved in dichloromethane (3 mL) and N,N-dimethylformamide (3 mL). The solution was cooled to 0° C. N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (254 mg, 1.32 mmol) was added. The solution for stirred for 10 min at 0° C., before a solution of 3-((2R)-2-(N-((2R)-2-methylamino-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionylamino)propyl acetate in dichloromethane (3 mL) was added. The solution was stirred for 18 hours, while it was warming up slowly to room temperature. It was diluted with ethyl acetate (100 mL) and extracted with 10% sodium hydrogensulfate solution. The aqueous phase was extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with saturated sodium hydrogen carbonate solution (100 mL) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatogrpahy on silica (45 g) with ethyl acetate/heptane (2:1) to give 427 mg of 3-((2R)-2-(N-((2R)-2-(N-((2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoyl)-N-methylamino)-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionylamino)propyl acetate.

reactant | (2E)-5-tert-Butoxycarbonylamino-5-methylhex-2-enoic acid | 1.14 mmol, 277 mg | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-hydroxy-7-azabenzotriazole | 1,14 mmol, 155 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 1.32 mmol, 254 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-((2R)-2-(N-((2R)-2-methylamino-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionylamino)propyl acetate | C(C)(=O)OCCCNC([C@@H](CC1=CC=CC=C1)N(C)C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)=O | C29H35N3O4
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-((2R)-2-(N-((2R)-2-(N-((2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoyl)-N-methylamino)-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionylamino)propyl acetate | 427 mg | C(C)(=O)OCCCNC([C@@H](CC1=CC=CC=C1)N(C)C([C@@H](CC1=CC2=CC=CC=C2C=C1)N(C)C(\C=C\CC(C)(C)NC(=O)OC(C)(C)C)=O)=O)=O | C41H54N4O7
